US08461328B2
A suspension of 3-(1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-piperidine-1-carboxylic acid 9H-fluoren-9-ylmethyl ester (7.09 g, 11.4 mmol) and palladium on carbon (2.1 g, 10%, wet, Degussa, E101 NE/W) in a 4:1 mixture of THF and EtOH (100 ml) was stirred under a hydrogen atmosphere (2 balloons) at 50° C. for 6 h. The reaction mixture was cooled to 25° C. and was filtered through Celite. The Celite was washed with THF (2×25 ml), and the combined filtrate and washings were concentrated under reduced pressure. Purification of the residue by column chromatography on silica gel (gradient: 0 to 7% CH3OH in CH2Cl2) gave 3-(5-amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-piperidine-1-carboxylic acid 9H-fluoren-9-ylmethyl ester (5.76 g, 85%, purple foam) still containing some impurities. This material was used in the next step below without additional purification or characterization.

reactant | 3-(1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-piperidine-1-carboxylic acid 9H-fluoren-9-ylmethyl ester | 11.4 mmol, 7.09 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1CC(CCC1)NC1=C2C(=NC=C1[N+](=O)[O-])N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C33H29N5O6S
reactant | THF | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 2.1 g | [Pd] | Pd
solvent | EtOH | 100 ml | CCO | C2H6O
product | 3-(5-amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-piperidine-1-carboxylic acid 9H-fluoren-9-ylmethyl ester | 5.76 g, 85% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1CC(CCC1)NC1=C2C(=NC=C1N)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C33H31N5O4S
